US04499299
a. 3-Methoxy-4-methylbenzoyl chloride
A mixture of 10.0 g (60.17 mmol) of 3-methoxy-4-methylbenzoic acid, 15 ml (210 mmol) of thionyl chloride and 10 ml of toluene was stirred at reflux for 2 hours. The solvents were then evaporated and the residue was distilled bulb-to-bulb at 60°-70° C. at a pressure of 0.04 mm of Hg to give the title compound as a colorless liquid.

reactant | 3-methoxy-4-methylbenzoic acid | 60.17 mmol, 10.0 g | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
reactant | thionyl chloride | 210 mmol, 15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methoxy-4-methylbenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1C | C9H9ClO2
